US08895547B2
C-(2-Chlorophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide
At room temperature, 1.24 g of (2-chlorophenyl)methanesulfonyl chloride were initially charged in 30 ml of dichloromethane, and 1.66 ml of 2,4-dimethoxybenzylamine were added dropwise. The reaction mixture was stirred for 30 minutes. Then the mixture was admixed with 50 ml of water and 50 ml of water, and then the aqueous phase was washed once more with 30 ml of ethyl acetate. The combined organic phases were washed with 1 N aqueous hydrochloric acid, dried over MgSO4 and concentrated by rotary evaporation. The residue (1.93 g) was used in the next reaction without further purification.

reactant | (2-chlorophenyl)methanesulfonyl chloride | 1.24 g | ClC1=C(C=CC=C1)CS(=O)(=O)Cl | C7H6Cl2O2S
reactant | 2,4-dimethoxybenzylamine | 1.66 ml | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | water | 50 ml | O | H2O
reactant | water | 50 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | C-(2-Chlorophenyl)-N-(2,4-dimethoxybenzyl)methanesulfonamide | ClC1=C(C=CC=C1)CS(=O)(=O)NCC1=C(C=C(C=C1)OC)OC | C16H18ClNO4S
